US06177440B1
40% Methanolic Triton B (0.15 mL, 0.34 mM) was added to a solution of the 9-[(2-chlorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole (80 mg, 0.23 mM) in 5 mL DMF at room temperature. After 3 minutes, t-butyl bromoacetate (182 mg, 0.91 mM) was added and the resultant mixture stirred at room temperature for 72 hours. The mixture was diluted with ethyl acetate, washed five times with H2O, and saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 57 mg (53%) of the {9-[(2-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester as a white solid. 1H NMR (DMSO-d6) δ 7.6 (d, 1H, J=8 Hz), 7.5-6.9 (m, 9H), 6.55 (d, 1H, J=8 Hz), 6.35 (d, 1H, J=8 Hz), 5.7 (s, 2H), 4.75 (s, 2H), and 1.45 (s, 9H). IR (KBr, cm−1) 1753 and 1678. MS (FD) m/e 464.

reactant | 9-[(2-chlorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.23 mM, 80 mg | ClC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C20H15ClN2O2
reactant | t-butyl bromoacetate | 0.91 mM, 182 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {9-[(2-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester | 57 mg, 53% | ClC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC(C)(C)C)C(N)=O | C26H25ClN2O4
